US04607039
Sodium hydride (0.25 g. of a 50% w/w dispersion in mineral oil) was added to a solution of 4-methoxy-3-o-tolylquinolin-2-thione (0.7 g.) in dimethylformamide (10 ml.) at ambient temperature. When all the hydrogen had evolved, 2-dimethylaminoethyl chloride hydrochloride (0.36 g.) was added and the mixture was stirred at ambient temperature for 20 hr. The reaction mixture was then poured into water (100 ml.) and extracted with ethyl acetate (2×25 ml.). The ethyl acetate extract was washed with water (2×10 ml.) and then dried (MgSO4). The ethyl acetate was evaporated, the residue was dissolved in diethyl ether (50 ml.), and ethereal hydrogen chloride was added until precipitation was complete. The mixture was filtered and the solid residue was crystallised from ethanoldiethyl ether to give 2-(2-dimethylaminoethylthio)-4-methoxy-3-o-tolylquinoline hydrochloride, m.p. 196°-8°.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-methoxy-3-o-tolylquinolin-2-thione | 0.7 g | COC1=C(C(NC2=CC=CC=C12)=S)C1=C(C=CC=C1)C | C17H15NOS
reactant | hydrogen | [H][H] | H2
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.36 g | Cl.CN(CCCl)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2-(2-dimethylaminoethylthio)-4-methoxy-3-o-tolylquinoline hydrochloride | Cl.CN(CCSC1=NC2=CC=CC=C2C(=C1C1=C(C=CC=C1)C)OC)C | InChI=1S/C21H24N2OS.ClH/c1-15-9-5-6-10-16(15)19-20(24-4)17-11-7-8-12-18(17)22-21(19)25-14-13-23(2)3;/h5-12H,13-14H2,1-4H3;1H
